US06165758
CC Acylase immobilized on HPA 25 (20 mL) and prepared in the above-mentioned (2) was packed in a column with a jacket, and 6.0 mg/mL glutaryl 7-aminocephalosporanic acid (GL7-ACA) solution (100 mL) was circulated for one hour at 20° C. at circulation flow rate of about 70 mL/min while adjusting the pH to 7.75 with NaOH, whereby 7-ACA was obtained. After the reaction, the reaction mixture in the column was pushed out with water and 7-ACA was recovered. The above-mentioned reaction was repeated 100 times (continuous batch reaction), which was taken as one cycle.

reactant | NaOH | [OH-].[Na+]
reactant | glutaryl 7-aminocephalosporanic acid | 100 mL | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CCCC(=O)O)SC1)C(=O)O | C15H18N2O8S
product | 7-ACA | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
